US04201568
Preparation of 2-(1-Ethylpropylamino)-3-cyano-4-methoxymethyl-5-nitro-6-methylpyridine
2-Chloro-3-cyano-4-methoxymethyl-5-nitro-6-methylpyridine (4.8 grams, 0.02 mole), 1-ethylpropylamine (3.6 grams, 0.04 mole) and 100 ml of toluene were charged into a glass reaction vessel fitted with a stirrer, thermometer and condenser. The reaction mixture was stirred and heated to 50° C. for 34 hours. It was then filtered and the solvent stripped off under reduced pressure to yield the desired product 2-(1-ethylpropylamino)-3-cyano-4-methoxymethyl-5-nitro-6-methylpyridine as a brown solid having a melting point of 74°-76° C.

reactant | 2-Chloro-3-cyano-4-methoxymethyl-5-nitro-6-methylpyridine | 0.02 mole, 4.8 grams | ClC1=NC(=C(C(=C1C#N)COC)[N+](=O)[O-])C | C9H8ClN3O3
reactant | 1-ethylpropylamine | 0.04 mole, 3.6 grams | C(C)C(CC)N | C5H13N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(1-ethylpropylamino)-3-cyano-4-methoxymethyl-5-nitro-6-methylpyridine | C(C)C(CC)NC1=NC(=C(C(=C1C#N)COC)[N+](=O)[O-])C | C14H20N4O3
